US09382188B2
step 4) 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-5-(trifluoromethyl)-1,3,4-thiadiazole
A solution of 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-N′-(2,2,2-trifluoroacetyl)-[1,1′-biphenyl]-2-carbohydrazide (502 mg) and Lawesson's reagent (825 mg) in THF (10 mL) was stirred at 80° C. for 4 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (299 mg) as a pale-yellow solid. The present compound was used for the next reaction without purification.

reactant | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-N′-(2,2,2-trifluoroacetyl)-[1,1′-biphenyl]-2-carbohydrazide | 502 mg | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)NNC(C(F)(F)F)=O | C24H20F4N2O5
reactant | Lawesson's reagent | 825 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-5-(trifluoromethyl)-1,3,4-thiadiazole | 299 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C=1SC(=NN1)C(F)(F)F | C24H18F4N2O3S
